US05843942
A mixture of 6-[N-(2-benzyloxy-5-bromobenzyl)-N-ethylamino]pyridazine-3-carboxamide (61.7 g), sodium hydroxide (28 g) and isopropanol (400 ml) was heated at reflux for 1 hour. The mixture was cooled to 70° C. and water (800 ml) was added over 30 minutes. The mixture was acidified to pH 3-4 with a solution of formic acid (41.5 ml) in water (200 ml) over 30 minutes, at 25°-30° C. The mixture was cooled to 10° C., the produce filtered off, washed with water and dried to give 6-[N-(2-benzyloxy-5-bromobenzyl)-N-ethylamino]pyridazine-3-carboxylic acid (60.2 g, 97.2% yield).

reactant | 6-[N-(2-benzyloxy-5-bromobenzyl)-N-ethylamino]pyridazine-3-carboxamide | 61.7 g | C(C1=CC=CC=C1)OC1=C(CN(CC)C2=CC=C(N=N2)C(=O)N)C=C(C=C1)Br | C21H21BrN4O2
reactant | sodium hydroxide | 28 g | [OH-].[Na+]
reactant | isopropanol | 400 ml | C(C)(C)O | C3H8O
reactant | formic acid | 41.5 ml | C(=O)O | CH2O2
solvent | water | 200 ml | O | H2O
solvent | water | 800 ml | O | H2O
product | 6-[N-(2-benzyloxy-5-bromobenzyl)-N-ethylamino]pyridazine-3-carboxylic acid | 60.2 g, 97.2% yield | C(C1=CC=CC=C1)OC1=C(CN(CC)C2=CC=C(N=N2)C(=O)O)C=C(C=C1)Br | C21H20BrN3O3
